US04710323
[4-(4-Chloro-3-aminophenylthio)-phenyl]-3, 4-diaminophenyl sulfoxide
Following the procedure described in Example 40 but using as a starting material instead of (4-amino-3-nitrophenyl)- 4-methylphenyl sulfoxide a corresponding amount of [4-(4-chloro-3-nitrophenylthio)-phenyl]-4-amino-3-nitrophenyl sulfoxide, the title compound is obtained.

reactant | (4-amino-3-nitrophenyl)- 4-methylphenyl sulfoxide | NC1=C(C=C(C=C1)C1=C(C=CC(=C1)C)S(=O)C1=C(C=C(C=C1)C)C1=CC(=C(C=C1)N)[N+](=O)[O-])[N+](=O)[O-] | C26H22N4O5S
reactant | [4-(4-chloro-3-nitrophenylthio)-phenyl]-4-amino-3-nitrophenyl sulfoxide | ClC1=C(C=C(C=C1)SC1=CC=C(C=C1)C1=C(C=CC(=C1[N+](=O)[O-])N)S(=O)C1=C(C(=C(C=C1)N)[N+](=O)[O-])C1=CC=C(C=C1)SC1=CC(=C(C=C1)Cl)[N+](=O)[O-])[N+](=O)[O-] | C36H22Cl2N6O9S3
product | [4-(4-Chloro-3-aminophenylthio)-phenyl]-3, 4-diaminophenyl sulfoxide | ClC1=C(C=C(C=C1)SC1=CC=C(C=C1)C1=C(C=CC(=C1N)N)S(=O)C1=C(C(=C(C=C1)N)N)C1=CC=C(C=C1)SC1=CC(=C(C=C1)Cl)N)N | C36H30Cl2N6OS3
